US05574178
4-tert-butyl-5-hydroxybenzofuran [J. Org. Chem., 53, 4135 (1988); 40 g, 0.21 mol], benzyl bromide (43 g, 0.25 mol) and potassium carbonate (28.8 g, 0.21 mol) were dissolved in N,N-dimethylformamide (200 ml) and the solution was stirred at room temperature for 24 h. After distilling off the N,N-dimethylformamide under vacuum, water was added to the residue and the mixture was subjected to extraction with ethyl acetate. The extracted layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 5-benzyloxy-4-tert-butylbenzofuran [49.1 g (yield, 83%)]. Mass 280(M+), 224, 189, 161, 91

reactant | 4-tert-butyl-5-hydroxybenzofuran | 0.21 mol, 40 g | C(C)(C)(C)C1=C(C=CC2=C1C=CO2)O | C12H14O2
reactant | benzyl bromide | 0.25 mol, 43 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.21 mol, 28.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-4-tert-butylbenzofuran | 49.1 g, 83% | C(C1=CC=CC=C1)OC=1C=CC2=C(C=CO2)C1C(C)(C)C | C19H20O2
